Noise in gain code model

a1 in1 out1 amp1
.model amp1 gain(in_offset=0.1 gain=5.0
+ out_offset=-0.01 noise_voltage=1u noise_corner=2k noise_exponent=2)

a2 in1 out2 amp2
.model amp2 gain(in_offset=0.1 gain=5.0
+ out_offset=-0.01 noise_voltage=2u noise_corner=1k noise_exponent=1.2)

Vin1 in1 0 1 ac 1

.control
noise V(out1) vin1 dec 333 1 1e6 16
print inoise_total onoise_total
noise V(out2) vin1 dec 333 1 1e6 16
print inoise_total onoise_total
set xbrushwidth=3
plot noise1.onoise_spectrum noise1.inoise_spectrum noise3.onoise_spectrum noise3.inoise_spectrum loglog
.endc

.end
