* noise analysis with analogue code model, programmatic example

aota inn 0 out newota
*.model newota ota (gm=1 rout=1e12 rin=1Meg en=31n enk=100 in_noise=100u ink=10k incm=0 incmk=2k noise_programmatic=TRUE)
*.model newota ota (gm=1m rout=1e12 rin=1Meg en=31n enk=100 noise_programmatic=TRUE)
*.model newota ota (gm=1m rout=1e12 rin=1Meg in_noise=2p ink=500 incm=0 incmk=500 noise_programmatic=TRUE)
.model newota ota (gm=1m rout=1e12 rin=1Meg en=31n enk=100 in_noise=20p ink=2k incm=0 incmk=2k noise_programmatic=TRUE)

Vin in 0 dc 0 ac 1 sin (0 2 1.5k)
Rsource in inn 10k


Rout out 0 1

.control
*tran 1u 10m
*plot out
noise v(out) Vin dec 10 1 10MEG
print inoise_total onoise_total
display
setplot noise1
display
plot  loglog inoise_spectrum
plot  loglog onoise_spectrum
.endc

.end
