  ADDER - 4 BIT ALL-NAND-GATE BINARY ADDER

*** SUBCIRCUIT DEFINITIONS
.SUBCKT NAND 1 2 3 4
*   NODES:  INPUT(2), OUTPUT, VCC
Q1        9  5  1 QMOD
D1CLAMP   0  1    DMOD
Q2        9  5  2 QMOD
D2CLAMP   0  2    DMOD
RB        4  5    4K
R1        4  6    1.6K
Q3        6  9  8 QMOD
R2        8  0    1K
RC        4  7    130
Q4        7  6 10 QMOD
DVBEDROP 10  3    DMOD
Q5        3  8  0 QMOD
.ENDS NAND

.SUBCKT ONEBIT 1 2 3 4 5 6
*   NODES:  INPUT(2), CARRY-IN, OUTPUT, CARRY-OUT, VCC
X1   1  2  7  6   NAND
X2   1  7  8  6   NAND
X3   2  7  9  6   NAND
X4   8  9 10  6   NAND
X5   3 10 11  6   NAND
X6   3 11 12  6   NAND
X7  10 11 13  6   NAND
X8  12 13  4  6   NAND
X9  11  7  5  6   NAND
.ENDS ONEBIT

.SUBCKT TWOBIT 1 2 3 4 5 6 7 8 9
*   NODES:  INPUT - BIT0(2) / BIT1(2), OUTPUT - BIT0 / BIT1,
*           CARRY-IN, CARRY-OUT, VCC
X1   1  2  7  5 10  9   ONEBIT
X2   3  4 10  6  8  9   ONEBIT
.ENDS TWOBIT

.SUBCKT FOURBIT 1 2 3 4 5 6 7 8 9 10 11 12 13 14 15
*   NODES:  INPUT - BIT0(2) / BIT1(2) / BIT2(2) / BIT3(2),
*           OUTPUT - BIT0 / BIT1 / BIT2 / BIT3, CARRY-IN, CARRY-OUT, VCC
X1   1  2  3  4  9 10 13 16 15   TWOBIT
X2   5  6  7  8 11 12 16 14 15   TWOBIT
.ENDS FOURBIT

*** DEFINE NOMINAL CIRCUIT
.MODEL DMOD D
.MODEL QMOD NPN(BF=75 RB=100 CJE=1PF CJC=3PF)
VCC   99  0   DC 5V
VIN1A  1  0   PULSE(0 3 0 10NS 10NS   10NS   50NS)
VIN1B  2  0   PULSE(0 3 0 10NS 10NS   20NS  100NS)
VIN2A  3  0   PULSE(0 3 0 10NS 10NS   40NS  200NS)
VIN2B  4  0   PULSE(0 3 0 10NS 10NS   80NS  400NS)
VIN3A  5  0   PULSE(0 3 0 10NS 10NS  160NS  800NS)
VIN3B  6  0   PULSE(0 3 0 10NS 10NS  320NS 1600NS)
VIN4A  7  0   PULSE(0 3 0 10NS 10NS  640NS 3200NS)
VIN4B  8  0   PULSE(0 3 0 10NS 10NS 1280NS 6400NS)
X1     1  2  3  4  5  6  7  8  9 10 11 12  0 13 99 FOURBIT
RBIT0  9  0   1K
RBIT1 10  0   1K
RBIT2 11  0   1K
RBIT3 12  0   1K
RCOUT 13  0   1K

*** (FOR THOSE WITH MONEY (AND MEMORY) TO BURN)
.option noinit acct
.TRAN 1NS 100NS
*.save VIN1A VIN1B VIN2A VIN2B VIN3A VIN3B VIN4A VIN4B
* save inputs
.save V(1) V(2) V(3) V(4) V(5) V(6) V(7) V(8)
* save outputs
.save V(9) V(10) V(11) V(12) V(13)
*.options savecurrents
*.save alli

.control
run
rusage
* plot the inputs, use offset to plot on top of each other
plot  v(1) v(2)+4 v(3)+8 v(4)+12 v(5)+16 v(6)+20 v(7)+24 v(8)+28 
* plot the outputs, use offset to plot on top of each other
plot  v(9) v(10)+4 v(11)+8 v(12)+12 v(13)+16
quit
.endc

.END


